US04103016
m-Trifluoromethyl aniline (32.22 g) in benzene was dissolved in benzene and diketene added slowly with mixing. The reaction mixture was allowed to stand at 25° C. The resulting solid product was recrystallized from ethanol to yield 3'-trifluoromethyl acetoacetanilide.

reactant | m-Trifluoromethyl aniline | 32.22 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3'-trifluoromethyl acetoacetanilide | FC(C=1C=C(NC(CC(=O)C)=O)C=CC1)(F)F | C11H10F3NO2
